US04597902
2-[2-(Phenylsulfonyl)ethyl]-1H-isoindole-1,3-(2H)dione
A solution of 30.7 g (0.15 mole) of 2-chloroethylphenylsulfone and 69.5 g (0.375 mole) of potassium phthalimide in 600 ml of dimethylformamide was heated overnight at 85° C. The reaction mixture was stripped to dryness and the residue was partitioned between water and chloroform. The chloroform layer was dried and filtered and solvent was evaporated from the filtrate to give an oil which crystallized on standing. The solid was triturated with isopropyl ether and the mixture cooled under refrigeration. The solid was collected by filtration and dried and recrystallized from methanol-isopropyl ether to give white crystalline product, m.p. 186°-188° C., in 35.7% yield.

reactant | 2-chloroethylphenylsulfone | 0.15 mole, 30.7 g | ClCCS(=O)(=O)C1=CC=CC=C1 | C8H9ClO2S
reactant | potassium phthalimide | 0.375 mole, 69.5 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | dimethylformamide | 600 ml | CN(C=O)C | C3H7NO
product | 2-[2-(Phenylsulfonyl)ethyl]-1H-isoindole-1,3-(2H)dione | 35.7% yield | C1(=CC=CC=C1)S(=O)(=O)CCN1C(C2=CC=CC=C2C1=O)=O | C16H13NO4S
